US04123529
(a) N-Phenacyl chloroacetamide
Chloroacetyl chloride (25 g; 0.226 mole) was added slowly to a stirred solution of phenacylamine hydrochloride (25.9 g; 0.151 mole) in anhydrous dimethylformamide (DMF) (80 ml) at room temperature. The internal temperature rose to ca. 40° C. The mixture was stirred for 4 hours after the addition and the bulk of the DMF evaporated under vacuum. The residue was treated with water (200 ml) and the crystalline precipitate collected, washed with water and dried. Yield 24.75 g (77%). m.p. 118°-119° C.

reactant | Chloroacetyl chloride | 0.226 mole, 25 g | ClCC(=O)Cl | C2H2Cl2O
reactant | phenacylamine hydrochloride | 0.151 mole, 25.9 g | Cl.C(C(=O)C1=CC=CC=C1)N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | N-Phenacyl chloroacetamide | C(C(=O)C1=CC=CC=C1)NC(CCl)=O | C10H10ClNO2
